US07485634B2
Preparation of Methyl 3-(4-Fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using methyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate (Kuehne et al. (1985) J. Org. Chem. 50:919-924) and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.51 (1H, br s), 7.99 (1H, s), 7.62 (2H, m), 7.53 (1H, d), 7.23 (1H, d), 7.10-7.24 (4H, m), 4.22 (2H, t), 3.80 (3H, s), 3.27 (2H, m); MS (ES): 365 (MH+).

reactant | methyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OC | C14H14N2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Methyl 3-(4-Fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3CC2)C(=O)OC)C=C1 | C21H17FN2O3
